US06589970B2
Step 5: 2-Ethyl-benzofuran-3-carboxylic acid [5-bromo-6-(1H-tetrazol-5-ylmethoxy)-naphthalen-2-ylmethyl]-methyl-amide.
A mixture of 2-ethyl-benzofuran-3-carboxylic acid (5-bromo-6-cyanomethoxy-naphthalen-2-ylmethyl)-methyl-amide (0.25 g, 0.5237 mmol), prepared in the previous step, sodium azide (0.10 g, 1.57 mmol) and ammonium chloride (0.084 g, 1.57 mmol) in 12 mL DMF was stirred under nitrogen at 100° C. for 5 h. The reaction was diluted with water, made basic with 1N NaOH and extracted four times with ethyl acetate. The combined organic extracts were acidified with 1N HCl, the solvent removed under reduced pressure and the resulting residue diluted with water. The solid foam that formed was collected by filtration and dried under reduced pressure to give the title compound (0.15 g, 56%) as a tan foam, MS m/z: 520 [M+H]+.

reactant | 2-ethyl-benzofuran-3-carboxylic acid (5-bromo-6-cyanomethoxy-naphthalen-2-ylmethyl)-methyl-amide | 0.5237 mmol, 0.25 g | BrC1=C2C=CC(=CC2=CC=C1OCC#N)CN(C(=O)C1=C(OC2=C1C=CC=C2)CC)C | C25H21BrN2O3
reactant | sodium azide | 1.57 mmol, 0.10 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.57 mmol, 0.084 g | [Cl-].[NH4+]
reactant | NaOH | 1N | [OH-].[Na+]
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-Ethyl-benzofuran-3-carboxylic acid [5-bromo-6-(1H-tetrazol-5-ylmethoxy)-naphthalen-2-ylmethyl]-methyl-amide | 0.15 g, 56% | BrC1=C2C=CC(=CC2=CC=C1OCC1=NN=NN1)CN(C(=O)C1=C(OC2=C1C=CC=C2)CC)C | C25H22BrN5O3
